US06716861B2
(3R)-N-(benzyloxy)-6-cyclohexyl-3-[5-methyl-4-(4-morpholinylmethyl)-1,3-oxazol-2-yl]hexanamide
Method as for preparation 157 using (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-5-methyl-1,3-oxazol-2-yl)hexanamide (preparation 160) (300 mg, 0.73 mmol) and morpholine (64 μl, 0.73 mmol) as starting materials.

reactant | (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-5-methyl-1,3-oxazol-2-yl)hexanamide | 0.73 mmol, 300 mg | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)C=O)C)=O | C24H32N2O4
reactant | morpholine | 0.73 mmol, 64 μl | N1CCOCC1 | C4H9NO
product | (3R)-N-(benzyloxy)-6-cyclohexyl-3-[5-methyl-4-(4-morpholinylmethyl)-1,3-oxazol-2-yl]hexanamide | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)CN1CCOCC1)C)=O | C28H41N3O4
